US08048897B2
(2) Synthesis of 2-Bromo-1-ethoxy-4-(4-ethylbenzyl)-benzene
Triethylsilane (2.7 mL, 16.9 mmol) and a boron trifluoride-diethyl ether complex (1.2 mL, 9.47 mmol) were added to a solution of (3-bromo-4-ethoxyphenyl)-(4-ethylphenyl)methanol (2.83 g, 8.44 mmol) in methylene chloride (20 mL) at 0° C. and the mixture was stirred for three hours. Methanol (50%)-water (4 mL) was added to the reaction mixture and the resulting mixture was extracted with methylene chloride. The extract was washed with a saturated sodium chloride aqueous solution, and then dried over magnesium sulfate. The residue obtained by distilling the solvent under reduced pressure was purified by silica gel column chromatography {developing solution=n-hexane to n-hexane-ethyl acetate [4% (v/v)]} to obtain the title compound (2.69 g, 100%).

reactant | Triethylsilane | 16.9 mmol, 2.7 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | (3-bromo-4-ethoxyphenyl)-(4-ethylphenyl)methanol | 8.44 mmol, 2.83 g | BrC=1C=C(C=CC1OCC)C(O)C1=CC=C(C=C1)CC | C17H19BrO2
reactant | Methanol | CO | CH4O
reactant | water | 4 mL | O | H2O
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-Bromo-1-ethoxy-4-(4-ethylbenzyl)-benzene | 2.69 g, 100% | BrC1=C(C=CC(=C1)CC1=CC=C(C=C1)CC)OCC | C17H19BrO
